US05112977
2-(2'-Hydroxyethoxy)-naphthacene-5,12-dione
27.6 g (0.1 mol) of 2-fluoro-5,12-naphthacenequinone, 32.5 g (0.1 mol) of Cs2CO3 and 300 ml of ethylene glycol are introduced into a sulfonating flask under nitrogen. After heating to 125° C., the mixture is stirred for 3 h. The reaction mixture is then poured into 3000 ml of water containing hydrochloric acid and the product which has precipitated is filtered off and washed several times with water. After drying in vacuo at 80° C., 30.3 g (97.1%) of pure product are obtained, melting point 208.8° C. The procedure is analogous in Examples 19-23 (see Table 2).

reactant | 2-fluoro-5,12-naphthacenequinone | 0.1 mol, 27.6 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9FO2
reactant | Cs2CO3 | 0.1 mol, 32.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethylene glycol | 300 ml | C(CO)O | C2H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 3000 ml | O | H2O
product | 2-(2'-Hydroxyethoxy)-naphthacene-5,12-dione | 30.3 g, 97.1% | OCCOC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C20H14O4
